US07994185B2
To solid N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (1 g, 1.85 mmol) was added 3-ethoxy-3-oxopropylzinc bromide 0.5M solution in THF (31.5 ml, 15.77 mmol) at RT. Bis(tri-t-butylphosphine)palladium (0) (0.095 g, 0.186 mmol) was added to reaction mixture. The reaction was stirred at RT for several hours. The reaction was check by LCMS. The reaction mixture was quenched into sat'd NH4Cl and stirred for several hours. A white/grey ppt was filtered. The EtOAc was added to filtrate. The EtOAc was separated contained form the water layer. The water layer was rewashed with EtOAc and the organic extracts combined, dried over MgSO4, filtered, and concentrated to dryness to give an orange oil. The crude product was added to a silica gel column and eluted with EtOAc with DCM (20% to 60%) and collected fractions to obtain ethyl 3-{4-[4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}propanoate (1.12 g, 64%). MS (ESI): 605 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 1.85 mmol, 1 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | 3-ethoxy-3-oxopropylzinc bromide | 0.5M | [Br-].C(C)OC(CC[Zn+])=O
reactant | THF | 15.77 mmol, 31.5 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.186 mmol, 0.095 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-{4-[4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}propanoate | 1.12 g, 64% | FC1=C(C(=CC=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)CCC(=O)OCC)C(C)(C)C)F | C28H27F3N4O4S2
